US04388317
A mixture of diethylsulphate (57.41 g) and tri-n-propylamine was added dropwise with stirring to a solution of furanylacrylic acid (34.53 g) in acetone (150 ml). When the addition was complete the mixture was refluxed for six hours. The acetone was evaporated at reduced pressure. The resultant oily residue was dissolved in ethyl acetate, washed with aqueous sodium bicarbonate solution dried (MgSO4) and the solvent evaporated to yield ethyl 3-(2-furanyl)acrylate (46.7 g) as a brown oil.

reactant | diethylsulphate | 57.41 g | C(C)OS(=O)(=O)OCC | C4H10O4S
reactant | tri-n-propylamine | C(CC)N(CCC)CCC | C9H21N
reactant | furanylacrylic acid | 34.53 g | O1C(=CC=C1)C(C(=O)O)=C | C7H6O3
reactant | acetone | 150 ml | CC(=O)C | C3H6O
product | ethyl 3-(2-furanyl)acrylate | 46.7 g | O1C(=CC=C1)C=CC(=O)OCC | C9H10O3
